US08217177B2
A flask was charged with tert-butyl 2-(3-hydroxyquinolin-6-yl)acetate (581.04 mg, 2.241 mmol) and triphenylphosphine (1.175 g, 4.482 mmol) then sealed with a septum and an placed under N2. Benzene (10 mL) was added, followed by 2-methoxyethanol (0.8838 ml, 11.20 mmol). The heterogeneous solution was cooled to 0° C., and di-tert-butyl azodicarboxylate (1.032 g, 4.482 mmol) was added as a solid in a single portion. The solution was allowed to warm to rt and maintained 20 h. The solution was then partitioned between saturated aqueous. NH4Cl, and the layers separated. The aqueous layer was extracted with EtOAc (2×50 mL), and the combined organic layers were washed with brine, dried (MgSO4), and concentrated in vacuo. The resulting residue was purified by MPLC (Teledine Isco combiFlash Companion), 80 g SiO2, solvent system: 90:10 hexanes:EtOAc gradient to 50:50 hexanes:EtOAc to give tert-butyl 2-(3-(2-methoxyethoxy)quinolin-6-yl)acetate (585.2 mg, 82% yield). LRMS (ESI) m/z calcd for C18H24NO4 (M+H) 318.2. found 318.3.

reactant | tert-butyl 2-(3-hydroxyquinolin-6-yl)acetate | 2.241 mmol, 581.04 mg | OC=1C=NC2=CC=C(C=C2C1)CC(=O)OC(C)(C)C | C15H17NO3
reactant | triphenylphosphine | 4.482 mmol, 1.175 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-methoxyethanol | 11.20 mmol, 0.8838 ml | COCCO | C3H8O2
reactant | di-tert-butyl azodicarboxylate | 4.482 mmol, 1.032 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | tert-butyl 2-(3-(2-methoxyethoxy)quinolin-6-yl)acetate | 585.2 mg, 82% yield | COCCOC=1C=NC2=CC=C(C=C2C1)CC(=O)OC(C)(C)C | C18H23NO4
